US06855710B2
c) (Z)-3-{1-[4-(2-methylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 89 by reacting 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone and 4-(2-methylamino-ethyl)-aniline.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
reactant | 4-(2-methylamino-ethyl)-aniline | CNCCC1=CC=C(N)C=C1 | C9H14N2
product | (Z)-3-{1-[4-(2-methylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | CNCCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C24H22N4O3
